US08859544B2
6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-1-prop-2-en-1-yl-2H-3,1-benzoxazine-2,4(1H)-dione
0.5 ml (5.71 mmol) of allyl bromide and 0.19 g (4.28 mmol) of sodium hydride at 60% are added, under an inert atmosphere at ambient temperature, to 1 g (2.85 mmol) of 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2H-3,1-benzoxazine-2,4(1H)-dione in 15 ml of DMF. The reaction medium is stirred for 2 hours at ambient temperature and then concentrated under reduced pressure. After the addition of ice to the residue, the precipitate formed is filtered off, rinsed with water, and dried under reduced pressure at 50° C. overnight. 0.773 g of a yellow solid is obtained.

reactant | allyl bromide | 5.71 mmol, 0.5 ml | C(C=C)Br | C3H5Br
reactant | sodium hydride | 4.28 mmol, 0.19 g | [H-].[Na+]
reactant | 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2H-3,1-benzoxazine-2,4(1H)-dione | 2.85 mmol, 1 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC2=C(C(OC(N2)=O)=O)C1)C | C19H14N2O5
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-1-prop-2-en-1-yl-2H-3,1-benzoxazine-2,4(1H)-dione | 0.773 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC2=C(C(OC(N2CC=C)=O)=O)C1)C | C22H18N2O5
